US05102890
Triethylamine (12.2 g), pyridine (90 cc) and then 3-methylbutyryl chloride (9.7 g) is added to a suspension of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (12.5 g) in methylene chloride (600 cc), while the temperature is maintained in the region of 25° C. After 4 hours' stirring at a temperature in the region of 25° C., 3-methylbutyryl chloride (0.7 g) is added again and the mixture is stirred for a further 16 hours at this temperature. The reaction mixture is then concentrated to dryness under reduced pressure (3 kPa) and the residue is taken up with water (500 cc). The insoluble product formed is separated by filtration, washed, dried and then recrystallized in a mixture of isopropyl ether and ethyl acetate (50:50 by volume). 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 3-methylbutyrate (7.9 g), m.p. 154° C., is thereby obtained.

reactant | Triethylamine | 12.2 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 90 cc | N1=CC=CC=C1 | C5H5N
reactant | 3-methylbutyryl chloride | 9.7 g | CC(CC(=O)Cl)C | C5H9ClO
reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone | 12.5 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
reactant | 3-methylbutyryl chloride | 0.7 g | CC(CC(=O)Cl)C | C5H9ClO
solvent | methylene chloride | 600 cc | C(Cl)Cl | CH2Cl2
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 3-methylbutyrate | 7.9 g | CC(CC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl)C | C21H18ClN3O3
